US07186729B2
Step 1: 4-[2-(4-Chloro-phenyl)-acetylamino]-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 4-amino-piperidine 1-carboxylic acid tert-butyl ester (0.44 g, 2.2 mmol) and 4-chlorophenyl acetic acid (0.34 g, 2 mmol) in dichloromethane (10 mL) were added EDCI (0.55 g, 2.8 mmol), HOBT (0.42 g, 2.8 mmol) and N-methylmorpholine (0.6 g, 6 mmol) and the resulting mixture was stirred at room temperature overnight. The reaction mixture was concentrated in vacuo, diluted with dichloromethane and extracted with saturated aqueous sodium bicarbonate solution. The aqueous layer was back extracted twice with dichloromethane. The combined organics were dried over sodium sulfate and concentrated in vacuo. Crude product was purified using a short plug of silica gel using ethyl acetate to give the desired product

reactant | 4-amino-piperidine 1-carboxylic acid tert-butyl ester | 2.2 mmol, 0.44 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | 4-chlorophenyl acetic acid | 2 mmol, 0.34 g | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
reactant | EDCI | 2.8 mmol, 0.55 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 2.8 mmol, 0.42 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 6 mmol, 0.6 g | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-[2-(4-Chloro-phenyl)-acetylamino]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(CC1=CC=C(C=C1)Cl)=O | C18H25ClN2O3
